US07544838B2
4-Hydroxy-benzoic acid (3-methyl-benzylidene)-hydrazide (DY159)
To a solution of 4-hydroxy-benzoic acid hydrazide (0.2 g, 0.0013 mol) in abs. EtOH (10 mL) and m-tolualdehyde (0.32 g, 0.0026 mol) was added 1 drop of acetic acid. The reaction mixture was refluxed for 4 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give white solid 0.25 g, in 76% yield, mp: 241.9° C. 1H NMR (CD3OD) δ 8.27 (s, 1H), 7.83 (d, 2H), 7.67 (s, 1H), 7.59 (d, 1H), 7.31 (t, 1H), 7.24 (d, 1H), 6.88 (d, 2H), 2.37 (s, 3H). 13C NMR (CDCl3) δ 166.9, 162.8, 150.0, 139.7, 135.7, 132.2, 130.8, 129.7, 129.1, 126.1, 124.7, 116.3, 114.9, 21.3. Anal. Calcd for C15H14N2O2 ·¼ H2O: C, 69.61.; H, 5.45; N, 10.82. Found: C, 69.38; H, 5.51; N, 10.52.

reactant | 4-hydroxy-benzoic acid hydrazide | 0.0013 mol, 0.2 g | OC1=CC=C(C(=O)NN)C=C1 | C7H8N2O2
reactant | m-tolualdehyde | 0.0026 mol, 0.32 g | C1(=CC(=CC=C1)C=O)C | C8H8O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-Hydroxy-benzoic acid (3-methyl-benzylidene)-hydrazide | 0.25 g, 76% yield | CC=1C=C(C=NNC(C2=CC=C(C=C2)O)=O)C=CC1 | C15H14N2O2
